US09382188B2
D) ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-yl)oxy)methyl)phenyl)propanoate
To a solution of 2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate (1.30 g) in THF (30 mL) were added ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (1.02 g), triphenylphosphine (1.87 g) and a 40% solution of diethyl azodicarboxylate in toluene (3.2 mL), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.71 g) as a colorless oil.

reactant | 2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate | 1.30 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F)(F)F | C14H10F4O5S
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 1.02 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | triphenylphosphine | 1.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | toluene | 3.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-yl)oxy)methyl)phenyl)propanoate | 1.71 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)OS(=O)(=O)C(F)(F)F | C29H28F4O7S
